US03947473
To a partial solution of 5.0 g. (20 mmol) of (±)-2-carboxy-6-hydroxy-2,6,7,8-tetramethylchroman in 8.0 ml. of pyridine was added, dropwise over 10 minutes, 12.0 ml. of acetic anhydride. The solution was allowed to stand for 16 hours and was then worked up and dried by the procedure of Example 2 utilizing dichloromethane as a solvent to give a white solid. Crystallization from a mixture of ether-petroleum ether (b.p. 30°-60°C.) gave (±)-6-acetoxy-2-carboxy-2,5,7,8-tetramethylchroman.

reactant | (±)-2-carboxy-6-hydroxy-2,6,7,8-tetramethylchroman | 20 mmol | C(=O)(O)C1(OC=2C(=C(C(CC2CC1)(C)O)C)C)C | C14H20O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | (±)-6-acetoxy-2-carboxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)O)C | C16H20O5
